US08026257B2
tert-Butyl 4-((2-amino-5-chloro-3-nitrobenzoyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a suspension of 2-amino-5-chloro-3-nitrobenzoic acid (500 mg, 2.3 mmol), tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (714 mg, 2.3 mmol), and dimethylaminopyridine (282 mg, 2.3 mmol) in dichloromethane (6.6 mL) was added 1-ethyl-3-[3-dimethylaminopropyl]carbodiimide hydrochloride (664 mg, 3.46 mmol) in one portion. The suspension was stirred overnight. The reaction was poured into water and diluted with diethyl ether. The ethereal was washed with water, then saturated sodium bicarbonate, then water. The ethereal was washed with brine, dried over magnesium sulfate, and concentrated. Column chromatography (15%→30% ethyl acetate/n-hexane) gave 0.88 g (75%) as a yellow foam solid. 1H-NMR (CDCl3, 500 MHz) δ 8.31 (d, J=2.4 Hz, 1H), 8.27 (bs, 2H), 7.87 (d, J=2.8 Hz, 1H), 7.36 (dd, J=8.9, 5.2 Hz, 2H), 7.09 (dd, J=8.9, 8.6 Hz, 2H), 4.25 (s, 2H), 3.81 (m, 2H), 3.06 (m, 2H), 2.25 (m, 2H), 1.86 (m, 2H), 1.43 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 165.5, 161.8 (d, J=248 Hz), 154.9, 145.8, 138.6, 136.8, 133.5, 131.6, 128.8 (d, J=7.7 Hz), 118.9, 115.8 (d, J=21 Hz), 115.4, 79.8, 73.2, 40.8, 39.9, 32.2, 28.5.

reactant | 2-amino-5-chloro-3-nitrobenzoic acid | 2.3 mmol, 500 mg | NC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Cl | C7H5ClN2O4
reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 2.3 mmol, 714 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
reactant | dimethylaminopyridine | 2.3 mmol, 282 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-ethyl-3-[3-dimethylaminopropyl]carbodiimide hydrochloride | 3.46 mmol, 664 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 6.6 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | tert-Butyl 4-((2-amino-5-chloro-3-nitrobenzoyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | NC1=C(C(=O)OCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)F)C=C(C=C1[N+](=O)[O-])Cl | C24H27ClFN3O6
